US07582769B2
An equimolar mixture of 1,1-carbonyldiimidazole, (2-amino-thiazole-5-sulfonylamino)-acetic acid ethyl ester and DMAP (5 mol %) in THF was heated for 2 h at 50-60° C. and then cooled to room temperature. Then dicyclohexylamine (1 equivalent) was added and the reaction is stirred overnight at room temperature. The reaction mixture was quenched with water. The organic phase was isolated and the aqueous phase was extracted with CH2Cl2, and the combined organic phases were dried and concentrated in vacuo. The crude product was dissolved in MeCN and purified (HPLC method 1) to give [2-(3,3-dicyclohexyl-ureido)-thiazole-5-sulfonylamino]-acetic acid ethyl ester. This material was dissolved in MeOH and treated with 20 equivalents of 1N NaOH over night at room temperature. MeOH was removed by evaporation. Addition of 1N HCl to pH<1 caused precipitation. The precipitate was isolated by filtration, washed with water and dried to give title compound.

reactant | (2-amino-thiazole-5-sulfonylamino)-acetic acid ethyl ester | C(C)OC(CNS(=O)(=O)C1=CN=C(S1)N)=O | C7H11N3O4S2
reactant | dicyclohexylamine | 1 equivalent | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | THF | C1CCOC1 | C4H8O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | [2-(3,3-dicyclohexyl-ureido)-thiazole-5-sulfonylamino]-acetic acid ethyl ester | C(C)OC(CNS(=O)(=O)C1=CN=C(S1)NC(=O)N(C1CCCCC1)C1CCCCC1)=O | C20H32N4O5S2
